US04670433
6-methoxy-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione
(S)-6-methyl-1,2,3,11a-tetrahydro-5H-pyrrolo (2,1-c) (1,4) benzodiazepine-5,11(10H)-dione by reaction with L-proline. M.p. 207.6°-209.9° C.

reactant | (S)-6-methyl-1,2,3,11a-tetrahydro-5H-pyrrolo (2,1-c) (1,4) benzodiazepine-5,11(10H)-dione | CC1=CC=CC2=C1C(N1[C@H](C(N2)=O)CCC1)=O | C13H14N2O2
reactant | L-proline | N1[C@H](C(=O)O)CCC1 | C5H9NO2
product | 6-methoxy-3,4-dihydro-4-methyl-2H-1,4-benzodiazepine-2,5(1H)-dione | COC1=CC=CC2=C1C(N(CC(N2)=O)C)=O | C11H12N2O3
